US09120792B2
A mixture of 0.50 g of N2-methyl-5-trifluoromethylthiopyridine-2,3-diamine, 0.44 g of 3-chloro-thiophene-2-carboxylic acid, 0.51 g of EDCI hydrochloride, 30 mg of HOBt and 5 ml of pyridine was stirred at 90° C. for 10 hours. Water was poured into the cooled reaction mixture, and the deposited precipitate was filtered. The filtrate was applied to a silica gel column chromatography to obtain 0.7 g of 2-(3-chlorothiophen-2-yl)-3-methyl-6-trifluoromethylthio-3H-imidazo[4,5,b]pyridine.

reactant | N2-methyl-5-trifluoromethylthiopyridine-2,3-diamine | 0.50 g | CNC1=NC=C(C=C1N)SC(F)(F)F | C7H8F3N3S
reactant | 3-chloro-thiophene-2-carboxylic acid | 0.44 g | ClC1=C(SC=C1)C(=O)O | C5H3ClO2S
reactant | EDCI hydrochloride | 0.51 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 30 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | Water | O | H2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2-(3-chlorothiophen-2-yl)-3-methyl-6-trifluoromethylthio-3H-imidazo[4,5,b]pyridine | 0.7 g | ClC1=C(SC=C1)C1=NC=2C(=NC=C(C2)SC(F)(F)F)N1C | C12H7ClF3N3S2
